US07026336B1
Reagent C: (3,4-Difluorophenoxy)-acetaldehyde
4-(2,2-Dimethoxyethoxy)-1,2-difluorobenzene Bromoacetaldehyde dimethyl acetal (3.3 ml, 27.9 mmol) and potassium carbonate (6.5 g, 47.1 mmol) were added to a solution of 3,4-difluorophenol (3.0 g, 23.4 mmol) in DMF (65 ml). The mixture was heated to 120° C. for 4 hours, cooled to room temperature and then quenched with a solution of aqueous ammonium chloride. The product was extracted into ethyl acetate, washed with water and brine, dried over magnesium sulphate, filtered and concentrated in vacuo to yield the title compound (5.1 g, 97%); 1H NMR (CDCl3) 3.45 (6H, s), 3.93 (2H, d, J 5.1 Hz), 4.67 (1H, t, J 5.1 Hz), 6.60 (1H, m), 6.74 (1H, m) and 7.03 (1H, m). Step 2. (3,4-Difluorophenoxy)-acetaldehyde A solution containing the product from Step 1 (5.1 g, 23.4 mmol), glacial acetic acid (4.5 ml) and concentrated sulphuric acid (2.7 ml) in water (50 ml) was heated at 100° C. for 5 hours. After cooling to room temperature, the product was extracted into diethyl ether. The organic extract was washed with aqueous sodium hydrogen carbonate solution, dried over magnesium sulphate, filtered an concentrated in vacuo. The product was purified by silica gel chromatography eluting with ethyl acetate:hexane (30:70) to yield the title compound (2.74 g, 68%); 1H NMR (CDCl3) 4.52 (2H, s), 6.59 (1H, m), 6.83 (1H, m), 7.08 (1H, m) and 9.82 (1H, s).

reactant | 4-(2,2-Dimethoxyethoxy)-1,2-difluorobenzene Bromoacetaldehyde dimethyl acetal | 27.9 mmol, 3.3 ml | COC(CBr)OC.COC(COC1=CC(=C(C=C1)F)F)OC
reactant | potassium carbonate | 47.1 mmol, 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-difluorophenol | 23.4 mmol, 3.0 g | FC=1C=C(C=CC1F)O | C6H4F2O
solvent | DMF | 65 ml | CN(C)C=O | C3H7NO
product | (3,4-Difluorophenoxy)-acetaldehyde | 5.1 g, 97% | FC=1C=C(OCC=O)C=CC1F | C8H6F2O2
